US09145409B2
Intermediate 26. (S)-methyl 1-((4-aminophenyl)sulfonyl)pyrrolidine-2-carboxylate (I26)
To a solution of (S)-methyl 1-((4-nitrophenyl)sulfonyl)pyrrolidine-2-carboxylate (642 mg, 2.0 mmol) in EtOAc (10 mL) was added SnCl2.2H2O (2.02 g, 9.0 mmol). The resulting mixture was stirred at room temperature for 2 d and diluted with EtOAc (50 mL) and 1 N NaOH (10 mL). The layers were separated and the aqueous phase re-extracted with EtOAc (2×50 mL). The combined organic phases were washed with brine (30 mL) and dried over MgSO4. The mixture was filtered and the solvent was removed in vacuo to yield the title compound as a white solid (531 mg, 93%).

reactant | (S)-methyl 1-((4-nitrophenyl)sulfonyl)pyrrolidine-2-carboxylate | 2.0 mmol, 642 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)OC | C12H14N2O6S
reactant | SnCl2.2H2O | 9.0 mmol, 2.02 g | O.O.Cl[Sn]Cl
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | NaOH | 1 N, 10 mL | [OH-].[Na+]
product | (S)-methyl 1-((4-aminophenyl)sulfonyl)pyrrolidine-2-carboxylate | 531 mg, 93% | NC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCC1)C(=O)OC | C12H16N2O4S
